US07288677B2
4,4′-Methylenebis(benzeneamine) (1.98 g, 10 mmol), acetone (10.0 g, 172 mmol), Pt(S)/C (0.2 g), and toluene (50.0 g) were charged into reactor. The reactor was purged 3 times with 110 psig (8.60×105 Pa) of H2 at 22° C. The reaction mixture was then stirred at 60° C. under 110 psig (8.60×105 Pa) of H2 for 2 hours. GC (conditions: 180° C./5 miminutes/10° C.-minutes rate/270° C./RT=9.37 minutes) showed 100% conversion of 4,4′-methylenebis(benzeneamine), and a 97% yield of N,N′-diisopropyl-4,4′-methylenebis(benzeneamine). The structure of the product was confirmed by GC-MS. No tertiary diamine was detected either by GC or by GC-MS.

reactant | 4,4′-Methylenebis(benzeneamine) | 10 mmol, 1.98 g | C(C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C13H14N2
reactant | acetone | 172 mmol, 10.0 g | CC(=O)C | C3H6O
reactant | toluene | 50.0 g | C1(=CC=CC=C1)C | C7H8
catalyst | Pt(S)/C | 0.2 g | [Pt] | Pt
product | N,N′-diisopropyl-4,4′-methylenebis(benzeneamine) | 97% yield | C(C)(C)NC1=CC=C(C=C1)CC1=CC=C(C=C1)NC(C)C | C19H26N2
